US07378417B2
7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-benzylsulfamoyl-phenyl)-amide
The title compound was prepared from 7-difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.1) and 3-amino-N-benzyl-benzenesulfonamide [CAS No. 303780-52-1] according to general procedure II. Light yellow solid. MS (ISP) 600.1 [(M−H)−]; mp 230° C.

reactant | 7-difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC=C(C=C2)C(F)(F)F)F | C15H8F5N3O2
reactant | 3-amino-N-benzyl-benzenesulfonamide | NC=1C=C(C=CC1)S(=O)(=O)NCC1=CC=CC=C1 | C13H14N2O2S
product | 7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-benzylsulfamoyl-phenyl)-amide | C(C1=CC=CC=C1)NS(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)F)C2=CC=C(C=C2)C(F)(F)F | C28H20F5N5O3S
